US05480790
2-Acrylamido-2-deoxy-D-glucose (1):
Glucosamine hydrochloride (0.1 mol; 21.56 g) and sodium nitrite (0.2 g) as inhibitor were dissolved under nitrogen atmosphere in 100 ml of a 0.3 M potassium carbonate solution, and the mixture was cooled to 0° C. Under vigorous stirring, acryloyl chloride (0.2 mol; 18.1 g) was added while the temperature was kept below 5° C. Stirring was continued for 3 h at 0°-5° C. and further 2 h while the mixture was allowed to come to room temperature. Finally, it was left at room temperature for 14 h. The solution was poured into 1 l of dry ethanol and strongly mixed. The resulting suspension was filtered by suction, and the cake was washed three times with 250 ml of 95% ethanol. To the combined filtrates and washings 1 l of ether was added and the solution was kept at 0° C. for 24 h. The desired product crystallized as white cubes, while the yellowish needles that might appear were a by-product. It could be separated by stirring up the whole mixture and decanting the liquid with the floating needles while the product remained on the ground of the reaction flask. By addition of 1 l of ether to the mother liquid a second crop could be isolated. The product was recrystallized two times from water/ethanol/ether. Yield 8.1-10.5 g (35-45%), m.p.:124°-125° C.

reactant | Glucosamine hydrochloride | 0.1 mol, 21.56 g | Cl.OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO
reactant | sodium nitrite | 0.2 g | N(=O)[O-].[Na+]
reactant | acryloyl chloride | 0.2 mol, 18.1 g | C(C=C)(=O)Cl | C3H3ClO
reactant | ethanol | 1 l | C(C)O | C2H6O
solvent | potassium carbonate | 0.3 M | C([O-])([O-])=O.[K+].[K+]
product | 2-Acrylamido-2-deoxy-D-glucose | C(C=C)(=O)N[C@@H](C=O)[C@@H](O)[C@H](O)[C@H](O)CO | C9H15NO6
